US07473783B2
To a vial charged with 3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine (30 mg, 0.139 mmol), PS-DMAP (Argonaut resin, 558 mg, 6 equiv.), and a stirring bar was added THF (2 mL) and 2-chloro-4-methyl-thiazole-5-carbonyl chloride solution in toluene (0.52 M, 1.3 mL, ca. 5 equiv.). The reaction mixture was stirred at 70° C. for 18 hours, then cooled to room temperature and treated with PS-trisamine (Argonaut resin, 674 mg, 20 equiv.) for 2 hours. The resin was filtered, washed with THF and the solvent was evaporated. The resulting crude mixture was treated with MeOH (1 mL) and a 4 N aqueous solution of NaOH (0.25 mL). The reaction mixture was further stirred at room temperature for 2 hours, then a 1 N aqueous solution of HCl was added to adjust the pH to 7, and the mixture was extracted with EtOAc (3×). Purification on silica gel with 0-10% MeOH in CH2Cl2 as eluent provided 11 mg (21% yield) of 2-chloro-4-methyl-thiazole-5-carboxylic acid (3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-amide as an off-white solid. 1H-NMR (d6-DMSO) δ: 7.75 (d, 2H), 7.54 (t, 2H), 7.39 (t, 1H), 2.65 (s, 3H); HPLC/MS m/z: 376.0 [MH]+.

reactant | 3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.139 mmol, 30 mg | C1(=CC=CC=C1)C1=NNC=2N=C(SC21)N | C10H8N4S
reactant | 2-chloro-4-methyl-thiazole-5-carbonyl chloride | ClC=1SC(=C(N1)C)C(=O)Cl | C5H3Cl2NOS
reactant | toluene | 0.52 M, 1.3 mL, ca. 5 equiv. | C1(=CC=CC=C1)C | C7H8
reactant | trisamine | 674 mg, 20 equiv. | C(C(CO)(CO)N)O | C4H11NO3
catalyst | DMAP | 558 mg, 6 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-methyl-thiazole-5-carboxylic acid (3-phenyl-1H-pyrazolo[3,4-d]thiazol-5-yl)-amide | 11 mg, 21% yield | C1(=CC=CC=C1)C1=NNC=2N=C(SC21)NC(=O)C2=C(N=C(S2)Cl)C | C15H10ClN5OS2
